US07105533B2
A solution of 3-methoxy-4-methyl benzoic acid (3.32 g, 20 mmol) in anhydrous THF (100 mL) was cooled to −78° C. A solution of MeLi (25 mL of a 1.6M solution in diethyl ether, 40 mmol) was added slowly to the reaction flask via syringe over 10 min. The cooling bath was removed, and the reaction mixture was allowed to warm to rt, and was stirred for 1 h at rt. The reaction mixture was quenched with 1N HCl (50 mL) and extracted with diethyl ether (3×50 mL). The organic extracts were combined, washed with brine (50 mL), dried (MgSO4), and concentrated to afford 3-methoxy-4-methyl benzophenone as a colorless oil.

reactant | 3-methoxy-4-methyl benzoic acid | 20 mmol, 3.32 g | COC=1C=C(C(=O)O)C=CC1C | C9H10O3
reactant | MeLi | [Li]C
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-methoxy-4-methyl benzophenone | COC=1C=C(C(=O)C2=CC=CC=C2)C=CC1C | C15H14O2
